US04582933
Proceeding as in Example 1, 173.5 g 3-dimethylamino-2-ethyl-2-butylpropylamine; 67 g acrylic acid; 2 g N,N'-diphenyl-p-phenylenediamine; and 2 g calcium tert-butylate were mixed. 122 g (55%) N-(3-dimethylamino-2-ethyl-2-butylpropyl)-acrylamide, boiling point 129° C. at 66.5 Pa, was isolated.

reactant | 3-dimethylamino-2-ethyl-2-butylpropylamine | 173.5 g | CN(CC(CN)(CCCC)CC)C | C11H26N2
reactant | acrylic acid | 67 g | C(C=C)(=O)O | C3H4O2
catalyst | N,N'-diphenyl-p-phenylenediamine | 2 g | C=1C=CC(=CC1)NC=2C=CC(=CC2)NC=3C=CC=CC3 | C18H16N2
product | N-(3-dimethylamino-2-ethyl-2-butylpropyl)-acrylamide | 122 g, 55% | CN(CC(CNC(C=C)=O)(CCCC)CC)C | C14H28N2O
